US07056916B2
(a) 1-(4-ethylphenyl)-2-methylpropan-2-ol
14.8 g (90 mmol) of 1-(4-ethylphenyl)propan-2-one dissolved in diethyl ether is added dropwise to 39 mL of a 3 molar solution of methylmagnesium bromide in diethyl ether while being cooled with an ice bath in such a way that the temperature does not exceed 30° C. After the addition has ended, the reaction mixture is refluxed for 1.5 hours and then hydrolyzed with 10% ammonium chloride solution. After the removal of the organic phase, the aqueous phase is extracted with diethyl ether. The combined ether phases are washed with water, dried with sodium sulfate, and evaporated down. The oil thus obtained is further reacted directly. Yield: 15.5 g (90%).

reactant | 1-(4-ethylphenyl)propan-2-one | 90 mmol, 14.8 g | C(C)C1=CC=C(C=C1)CC(C)=O | C11H14O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-ethylphenyl)-2-methylpropan-2-ol | C(C)C1=CC=C(C=C1)CC(C)(O)C | C12H18O
